Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Not much." 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
For further details of the history and presentation, please see 
OMR including Dr. ___ and Dr. ___ 
initial consultation note dated ___ and Dr. ___ 
___ admission note dated ___. 
. 
Briefly, this is a ___ year old single woman, currently a ___ 
___ graduate student, previously diagnosed with depression and 
PTSD, with longstanding history of affective instability, 
reactive mood, difficulty with interpersonal relationships, fear 
of abandonment, self injurious behaviors with self diagnosis of 
borderline personality disorder, s/p one prior suicide attempt 
and one prior psychiatric hospitalization, who presented to 
___ via EMS following an overdose on Ativan in the setting of 
worsening depression with numerous ongoing psychosocial 
stressors.
. 
ED Course: Patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Ms. ___, who was reliable historian, 
she confirmed the history initially presented in the ED. 
Reported she "took all of my Ativan because I haven't been able 
to sleep in days." Denies it was a suicide attempt and initially 
stated that everything was "fine." When pressed, patient went on 
to state, "my life is a shit show but it's always been a shit 
show." Reported history of a difficult childhood (see social 
history) while raised in ___ and states she has always 
been unhappy. Noted that after she moved away to attend college 
at ___, things improved but not to the degree she had hoped. 
Ms. ___ reported she had been struggling this semester with
academic pressures, financial concerns, stating she was having 
difficulty paying her bills and was also sending money home to 
her family. 
. 
In this setting, patient reported ongoing difficulty with 
depression irritability. Reported erratic sleep, at times she 
will sleep 17 hours per day and on others about 5 hours per day. 
Reported her energy had been "variable" and that she had been 
taking Focalin for ADHD that had recently been diagnosed, but 
that she is currently not on this. Reported poor appetite, with 
fluctuations in weight. Currently denying suicidal ideation and 
denies that her overdose was a suicide attempt on my 
examination. Of note, she also states she had not been thinking 
of stabbing herself, and denies saying this in the emergency 
department. Of note, when asked about prior diagnoses, patient 
states, "I'm afraid I'm borderline." She stated she had read the 
criteria in
the past and when asked what criteria she identified with, she 
stated, "all of them." Discussed the diagnosis and that this is 
a treatable illness that does improve over time. 
. 
On psychiatric review of systems, patient denied a history of 
manic symptoms including decreased need for sleep, increased 
energy, impulsivity, grandiosity. Denied history of psychosis 
including auditory/visual hallucinations, paranoia. Denied drug 
or alcohol abuse. 

 
Past Medical History:
Past psychiatric history:
- Diagnoses: Depression, PTSD, borderline personality disorder 
- Hospitalizations: x1 in ___ at ___ s/p suicide
attempt via overdose on Zoloft
- Current treaters and treatment: psychiatrist Dr. ___ 
___
and therapist ___. Of note, patient states she has
been in therapy since she was a senior in high school and has
seen approximately 19 therapists since ___, stating she seems 
to
encounter racist therapists, unethical therapists. She noted she
frequently terminates the therapeutic relationship early, as she
fears abandonment.  
- Medication and ECT trials: Fluoxetine, Zoloft, wellbutrin,
citalopram. Unclear if any were helpful 
- Self-injury: suicide attempt x1 as above; self harm by cutting
- Harm to others: denies
- Access to weapons: denies
. 
Past medical history: denies 

 
Social History:
Substance use history:
- EtOH: occasional use, ___
- Illicit Drugs: marijuana ___, denies other drug use 
including cocaine, methamphetamine, LSD, and opiates.
- Tobacco: denies
. 
Personal and Social History: Patient born and raised in the 
___ area as the oldest of 3 children. States she has a 
younger sister, age ___ who is currently studying abroad in 
___ and another sister age ___ who is currently in ___ with her parents. Parents immigrated from ___, and 
patient reported she grew up in poverty, noting her parents 
would go without food so they could eat. Ms. ___ reported 
her father works as a cab driver and described him as "depressed 
and quiet." Mother works as a ___ for a ___ and cleans 
houses. Patient stated her mother would often over extend 
herself, always taking care of others, and involve the patient, 
which she resented. Also described her mother as quite 
controlling. Ms. ___ stated that she grew up in an 
___ community in ___, which she described as "good and 
bad--there were supports and everyone knew each other, but 
everyone knew your business." Reported that there was quite a 
bit of pressure to excel academically, and her parents were 
disappointed when she did not get into ___, 
although she was accepted into ___. Of note, 
patient stated that at age ___ years of age she was sexually 
abused by someone she knew. She told her mother, who did not 
believe her. Ms. ___ states that, "I pretend it's not an 
issue." Patient graduated college and is
currently in her second year at ___ studying for a ___ in 
social work and for a ___ in public health. Currently 
states her GPA is 3.5, which she is not happy with because "I 
know more than 90% of my professors and social ___ is supposed 
to be easy." Currently living in an apartment with her 
roommates, who are also struggling financially. Never married, 
no children. 
. 

 
Family History:
Family psychiatric history:
- Diagnoses: denies formal diagnoses, but believes her father
suffers from depression 
- Suicides: none known 
- Substance Use: none known 
 
Physical Exam:
VITAL SIGNS: T 98.3, HR 89, BP 124/91, RR 18, SpO2 98% on RA 

EXAM:
General:
- HEENT: Normocephalic, atraumatic.  Moist mucous membranes, 
oropharynx clear, supple neck.
- Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops.
- Pulmonary: No increased work of breathing.  Lungs clear to 
auscultation bilaterally.  No wheezes/rhonchi/rales.
- Abdominal: Did not assess.
- Extremities: small cuts and scars on hands, arms, and legs; no 
bleeding; extremities warm and well-perfused; no edema.
- Skin: No rashes or lesions noted. Skin does not appear dry.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3.5 to 2.5mm, both directly and consentually; brisk 
bilaterally.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric.
---VIII: Hearing grossly intact.
---IX, X: Palate elevates symmetrically.
---XI: ___ strength in trapezii and SCM bilaterally.
---XII: Tongue protrudes in midline.
-Motor: Normal bulk and tone bilaterally. No abnormal movements, 
no tremor. Strength 4+/5 throughout.
-Sensory: No deficits to fine touch throughout.
-DTRs: Did not assess.
Coordination: Normal finger to nose test and rapid alternating 
hand movements.
-Gait: initially slow and unsteady but improved on subsequent 
exam, narrow-based, normal arm swing. Romberg absent.
. 
Cognition: 
- Wakefulness/alertness: awake, alert, but appears sleepy
- Attention (digit span, MOYB): accurately states MOYB
- Orientation: to person, place, situation, date
- Executive function (go-no go, Luria, trails, FAS): not 
assessed
- Memory: ___ registration, ___ delayed recall
- Fund of knowledge: able to name ___ previous US presidents
- Calculations: quarters in $1.75 = "7"
- Abstraction: bicycle/train = "wheels"
- Visuospatial: not assessed
- Speech: amount normal, volume/tone normal, rate/rhythm normal
- Language: fluent ___
.  
Mental Status:
- Appearance: well-groomed woman, appears stated age, sitting in 
wheelchair, in no acute distress
- Behavior/Attitude: calm, cooperative, engaged, good eye 
contact
- Mood and Affect: "empty"; affect generally depressed and 
restricted, does sometimes smile and laugh inappropriately when 
discussing difficult topics, though may also be consistent with 
stated familial/cultural norms
- Thought process / *associations: linear, no tangentiality, no
circumstantiality, no loose associations
- Thought Content: passive suicidal ideation, denies active 
suicidal ideation, though on initial ED exam reported thoughts 
of stabbing herself with a knife; denies HI; denies AVH; no 
apparent delusional or paranoid thought content
- Judgment and Insight: poor/limited

 
Pertinent Results:
___ 05:30PM URINE  HOURS-RANDOM
___ 05:30PM URINE  UCG-NEGATIVE
___ 05:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 05:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 05:30PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
___ 05:30PM URINE  RBC-130* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 04:00PM   GLUCOSE-106* UREA N-11 CREAT-0.6 SODIUM-141 
POTASSIUM-4.4 CHLORIDE-106 TOTAL CO2-23 ANION GAP-12
___ 04:00PM   estGFR-Using this
___ 04:00PM   ALT(SGPT)-10 AST(SGOT)-12 ALK PHOS-69 TOT 
BILI-0.3
___ 04:00PM   ALBUMIN-4.1
___ 04:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00PM   WBC-7.7 RBC-4.80 HGB-13.3 HCT-41.2 MCV-86 
MCH-27.7 MCHC-32.3 RDW-14.2 RDWSD-43.9
___ 04:00PM   NEUTS-65.8 ___ MONOS-8.2 EOS-0.7* 
BASOS-0.9 IM ___ AbsNeut-5.04 AbsLymp-1.80 AbsMono-0.63 
AbsEos-0.05 AbsBaso-0.07
___ 04:00PM   PLT COUNT-371
 
Brief Hospital Course:
This is a ___ year old single woman, currently a ___ 
graduate student, previously diagnosed with depression and PTSD, 
with longstanding history of affective
instability, reactive mood, difficulty with interpersonal 
relationships, fear of abandonment, self injurious behaviors 
with self diagnosis of borderline personality disorder, s/p one 
prior suicide attempt and one prior psychiatric hospitalization, 
who presented to ___ via EMS following an overdose on Ativan 
in the setting of worsening depression with numerous ongoing 
psychosocial stressors.
. 
Upon interview, patient reports a longstanding history of 
affective instability, reactive mood, impulsivity, fear of 
abandonment, self injurious behaviors beginning in childhood and 
persisting into adulthood in the setting of a chaotic childhood. 
Patient reports worsening of depression in the setting of 
academic stressors, financial stressors, difficulty managing 
time with recent overdose on Ativan, which she is denying is a 
suicide attempt. Mental status on my examination notable for a 
well groomed woman, with relatively euthymic mood that is full 
in range, denial of suicidal ideation, and thought process that 
is notably linear, logical, goal and future oriented.
. 
Diagnostically, given history, presentation and examination, 
etiology of presentation is likely secondary to decompensated 
cluster B traits as noted above. Given chronicity of symptoms 
and lack of episodic nature, along with benign mental status 
examination as noted above, I do not believe she is suffering 
from a unipolar depression. Nothing in her history to suggest a 
prior manic episode-- she does not meet criteria for BPAD, 
although clearly given her young age, I cannot rule out an 
underlying mood disorder at this time. Also nothing to suggest a 
history of psychosis either in her history or presentation. 
Patient denies substance use or alcohol use and tox screen was 
negative on admission. I do not believe that substance use is 
contributing to her current presentation. 
. 
#. Legal/Safety: patient admitted to ___ on a ___, upon admission, signed a conditional voluntary form, which 
was accepted. She maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. 
. 
#. Borderline personality disorder: as above 
- ___ workup unremarkable during this hospitalization 
- Patient was compliant in attending groups and maintained 
excellent behavioral control throughout her admission. She was 
compliant in meeting with her treatment team and participated 
appropriately in her care. 
- With the patient's permission, I talked with her outpatient 
therapist, who agreed with the above formulation of underlying 
character pathology and agreed with brief inpatient 
hospitalization for containment. She was amenable to continue 
seeing her as an outpatient. 
- Discussed the risks and benefits of increasing Paxil vs. 
changing antidepressants. We also discussed the risks and 
benefits of initiation of Lamictal and/or a low dose of 
risperidone, which she declined during this admission. 
- In the setting of the stabilizing environment of the milieu, 
patient reported improvement in mood and consistently denied 
suicidal ideation or thoughts of self harm during her 
hospitalization. At time of discharge, she was noted to be goal 
and future oriented with plan to follow up with her outpatient 
treaters and return to work. 
- Of note, we did discuss the risks and benefits of attending a 
partial program, which she declined, as it would interfere with 
her coursework and with work. Stated she was amenable to a 
referral to an IOP, and she was provided with this at time of 
discharge. 
. 
#. Medical: no acute issues 
- Patient was provided a referral for a PCP as noted in 
discharge worksheet. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Focalin XR (dexmethylphenidate) 5 mg oral QAM 
2. LORazepam 0.5 mg PO QHS:PRN insomnia 
3. PARoxetine HCl 10 mg oral QAM 

 
Discharge Medications:
1.  PARoxetine HCl 10 mg oral QAM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Borderline Personality Disorder

 
Discharge Condition:
VS: 98.2 PO, 125/74, 70, 16, 98 
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm, cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH 
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___